US09416125B2
Preparation of 3,3-bis(dimethylamino)-2-methoxypropanenitrile
360 g of 1-tert-butoxy-N,N,N′,N′-tetramethylmethanediamine (Bredereck's reagent) (2068 mmol, 1.0 eq.) and 150 g of methoxyacetonitrile (2068 mmol, 1.0 eq.) were stirred for 18 h at 80° C. The reaction mixture was concentrated in vacuo. The residue was purified by vacuum distillation to yield 117 g (687 mmol, 33.0%) of the analytical pure target compound as a yellowish liquid.

reactant | 1-tert-butoxy-N,N,N′,N′-tetramethylmethanediamine | 2068 mmol, 360 g, 1.0 eq. | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | methoxyacetonitrile | 2068 mmol, 150 g, 1.0 eq. | COCC#N | C3H5NO
product | 3,3-bis(dimethylamino)-2-methoxypropanenitrile | 687 mmol, 117 g, 33.0% | CN(C(C(C#N)OC)N(C)C)C | C8H17N3O
